US04220654
H. Cis and Trans 2-(1-benzyl-5-methyl-4-imidazolyl)-5-amino-1,3-dithiane
To a suspension of lithium aluminum hydride (2.9 g., 0.076 mole) in dry tetrahydrofuran (120 ml.) under a nitrogen atmosphere is added dropwise a solution of 2-(1-benzyl-5-methyl-4-imidazolyl)-1,3-dithian-5-one oxime (21.3 g., 0.0668 mole) in dry tetrahydrofuran (130 ml.). After heating at 70° C. for one hour, water (40 ml.) is added cautiously and the mixture is filtered hot. The solvent is evaporated and the residue is chased with ethanol to remove traces of water to give a viscous oil (17.0 g.). Careful chromatography on silica gel by gradient elution with 2-6% methanol/chloroform affords 2.2 g. of the trans isomer and 7.3 g. of the cis isomer as viscous semi-solids.

reactant | lithium aluminum hydride | 0.076 mole, 2.9 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(1-benzyl-5-methyl-4-imidazolyl)-1,3-dithian-5-one oxime | 0.0668 mole, 21.3 g | C(C1=CC=CC=C1)N1C=NC(=C1C)C1SCC(CS1)=NO | C15H17N3OS2
reactant | water | 40 ml | O | H2O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
product | Trans 2-(1-benzyl-5-methyl-4-imidazolyl)-5-amino-1,3-dithiane | C(C1=CC=CC=C1)N1C=NC(=C1C)[C@@H]1SC[C@H](CS1)N | C15H19N3S2
